US07378418B2
Preparation of 2-(7,8-Bis(4-chlorophenyl)-3-oxo-[1,2,4]triazolo[4,3-b]pyridazin-2(3H)-yl)-N-(4-(trifluoromethyl)phenyl)acetamide
A solution of 7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one, (30 mg, 0.084 mmol), prepared as described in Example 1, 2-chloro-N-(4-(trifluoromethyl)phenyl)acetamide (22 mg, 0.092 mmol), K2CO3 (35 mg, 0.25 mmol) in DMF (1 ml), was heated at 80° C. for 1 hour. After this time, the solution was cooled to RT and diluted with ethyl acetate. The resultant solution was then washed with water. The organic layer was dried over Na2SO4, filtered and concentrated. The crude material was purified by preparative HPLC to give the title compound, 2-(7,8-bis(4-chlorophenyl)-3-oxo-[1,2,4]triazolo[4,3-b]pyridazin-2(3H)-yl)-N-(4-(trifluoromethyl)phenyl)acetamide (38 mg, 81%) as a yellow solid. MS M+H=558; 1H NMR (CDCl3) δ 8.26 (1H), 7.60 (2H), 7.38-7.20 (8H), 7.11 (2H), 5.07 (2H).

reactant | 7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 0.084 mmol, 30 mg | ClC1=CC=C(C=C1)C1=C(C=2N(N=C1)C(NN2)=O)C2=CC=C(C=C2)Cl | C17H10Cl2N4O
reactant | 2-chloro-N-(4-(trifluoromethyl)phenyl)acetamide | 0.092 mmol, 22 mg | ClCC(=O)NC1=CC=C(C=C1)C(F)(F)F | C9H7ClF3NO
reactant | K2CO3 | 0.25 mmol, 35 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(7,8-bis(4-chlorophenyl)-3-oxo-[1,2,4]triazolo[4,3-b]pyridazin-2(3H)-yl)-N-(4-(trifluoromethyl)phenyl)acetamide | 38 mg, 81% | ClC1=CC=C(C=C1)C1=C(C=2N(N=C1)C(N(N2)CC(=O)NC2=CC=C(C=C2)C(F)(F)F)=O)C2=CC=C(C=C2)Cl | C26H16Cl2F3N5O2
